US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-5-ethyl-2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxamide
In the same manner as in Example 77 and using 5-ethyl-2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylic acid (250 mg, 0.94 mmol), tetrahydrofuran (9 mL), N,N-dimethylformamide (1 drop), oxalyl dichloride (160 μL, 1.9 mmol), N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (250 mg, 0.78 mmol) and N,N-dimethylacetamide (12 mL) as starting materials, the title compound (210 mg, 47%) was obtained as a white solid.

reactant | 5-ethyl-2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 0.94 mmol, 250 mg | C(C)C1=C(C(N(N1C)C1=CC=C(C=C1)F)=O)C(=O)O | C13H13FN2O3
reactant | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
reactant | oxalyl dichloride | 1.9 mmol, 160 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.78 mmol, 250 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 12 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-5-ethyl-2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxamide | 210 mg, 47% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N(C2CC)C)C2=CC=C(C=C2)F)=O)F)C1 | C30H26F2N6O4
